US07091235B2
A solution of 4-chlorophenylacetic acid (11.05 g, 64.8 mmol) in DMF (100 mL) was treated with CDI (13.13 g, 81 mmol) in several portions over about 15 minutes and the mixture was stirred until gas evolution had ceased. 4-Fluoro-2-hydroxyacetophenone (5.0 g, 32.4 mmol) was added followed by potassium carbonate (15.7 g, 113.6 mmol) and 4-DMAP (about 1 g). The reaction mixture was warmed at about 80° C. for about 10 h then cooled to room temperature. Water (200 mL) was added and the aqueous layer was extracted with ethyl acetate. The combined organic layer was concentrated and the crude product was purified by flash chromatography (ethyl acetate/hexanes) to give a yield of about 3.5 g (38%) of a benzopyranone intermediate.

reactant | 4-chlorophenylacetic acid | 64.8 mmol, 11.05 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | CDI | 81 mmol, 13.13 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-Fluoro-2-hydroxyacetophenone | 32.4 mmol, 5.0 g | CC(=O)C1=C(C=C(C=C1)F)O | C8H7FO2
reactant | potassium carbonate | 113.6 mmol, 15.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | 4-DMAP | about 1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Water | 200 mL | O | H2O
product | benzopyranone | yield of about 3.5 g, 38% | O1C(C=CC2=C1C=CC=C2)=O | C9H6O2
